US09328096B2
5-amino-1-phenyl-1H-pyrazole-3-carbonitrile
To a solution of ethyl 2-(phenyldiazenyl)succinonitrile (Preparation 55, 2.84 g, 15.43 mmol) in dichloromethane (103 mL) was added a 10% aqueous solution of potassium carbonate (77 mL, 55.71 mmol). The reaction was stirred at room temperature for 18 hours. The organic layer was separated dried over magnesium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 0-3% MeOH in DCM to afford the title compound (1.24 g, 44%).

reactant | ethyl 2-(phenyldiazenyl)succinonitrile | 15.43 mmol, 2.84 g | C(C)C(C#N)(CC#N)N=NC1=CC=CC=C1 | C12H12N4
reactant | potassium carbonate | 55.71 mmol, 77 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 103 mL | ClCCl | CH2Cl2
product | 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile | 1.24 g, 44% | NC1=CC(=NN1C1=CC=CC=C1)C#N | C10H8N4
